US04518602
1.6M n-butyllithium-hexane solution (28.9 ml, 46.2 mmole) was added dropwise to a solution of diisopropylamine (6.5 ml, 46.4 mmole) in tetrahydrofuran (50 ml) at -60° C. under an argon atmosphere, with stirring. 10 minutes later, a solution of caprolactone (5.0 g, 43.8 mmole) in tetrahydrofuran (10 ml) was added dropwise to the solution. After the reaction was allowed to proceed for 20 minutes under the same reaction conditions, a solution of methyl iodide (7.5 g, 52.8 mmole) in hexamethylphosphormaide (9.2 ml) was added gradually to the reaction solution, and stirring was continued for 1 hour after the dropwise addition while maintaining the reaction mixture at -40° to -45° C. Saturated aqueous ammonium chloride solution (20 ml) was added to the reaction solution to terminate the reaction, and water (100 ml) was added to the mixture, followed by extraction of the product with ethyl acetate. The organic layer was washed with water, dried and concentrated. The residue was chromatographed on a column of silica gel, and development with isopropyl ether yielded 2-methylcaprolactam (3.7 g, 66%) [NMR (δ value): 1.18 (3H, d, 6 Hz), 2.5-2.9 (1H,m), 4.18-4.34 (2H,m)].

reactant | diisopropylamine | 46.4 mmole, 6.5 ml | C(C)(C)NC(C)C | C6H15N
reactant | caprolactone | 43.8 mmole, 5.0 g | C1(CCCCCO1)=O | C6H10O2
reactant | methyl iodide | 52.8 mmole, 7.5 g | CI | CH3I
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-methylcaprolactam | 3.7 g, 66% | CC1C(=O)NCCCC1 | C7H13NO
